US06653326B1
50 g (0.245 mol) of m-trifluoromethyl-benzamidoxime and 33.7 g (0.6 mol) of potassium hydroxide was dissolved in a mixture of dimethyl sulphoxide and 170 ml of water, and the mixture was cooled to 0° C. 48 ml (0.6 mol) of epichlorohydrine was added, and the reaction mixture was stirred at 0° C. for 5 hours, then kept in a refrigerator overnight. Next day 250 ml of water was added, and the mixture was extracted with ethyl acetate (4×250 ml). The combined organic phases were washed with water, dried, treated with charcoal and evaporated to dryness, to yield m-trifluoromethyl-N-(2,3-epoxypropoxy)-benzamidine, as a colorless oil.

reactant | m-trifluoromethyl-benzamidoxime | 0.245 mol, 50 g | FC(C=1C=C(C(N)=NO)C=CC1)(F)F | C8H7F3N2O
reactant | potassium hydroxide | 0.6 mol, 33.7 g | [OH-].[K+]
reactant | epichlorohydrine | 0.6 mol, 48 ml | C(Cl)C1CO1 | C3H5ClO
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
solvent | water | 170 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | m-trifluoromethyl-N-(2,3-epoxypropoxy)-benzamidine | FC(C=1C=C(C(=N)NOCC2CO2)C=CC1)(F)F | C11H11F3N2O2
